US04435403
2nd stage: The suspension of 1.9 g of lithium-aluminum hydride in 165 ml of tetrahydrofuran cooled to 0° C. is proportionately mixed with 16.45 g of 1-tosylindole-4-carboxylic-acid-methylester. After 30 minutes 1.9 ml of water, 1.9 ml of 15% soda lye and 5.7 ml of water are carefully and sequentially dripped in. After 20 minutes, the precipitate is filtered off, washed out with acetic-acid-ethylester and the filtrates are concentrated. The raw product (15.97 g) is crystallized out of diisopropylether. 13.15 g of 4-hydroxymethyl-1-tosylindole with a m.p. of 125°-126° C. is obtained.

reactant | lithium-aluminum hydride | 1.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-tosylindole-4-carboxylic-acid-methylester | 16.45 g | COC(=O)C=1C=2C=CN(C2C=CC1)S(=O)(=O)C1=CC=C(C)C=C1 | C17H15NO4S
reactant | water | 1.9 ml | O | H2O
reactant | water | 5.7 ml | O | H2O
solvent | tetrahydrofuran | 165 ml | O1CCCC1 | C4H8O
product | 4-hydroxymethyl-1-tosylindole | 13.15 g | OCC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C16H15NO3S
